US04880809
Using a mixture of 3,4-dimethoxy6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid (0.6 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.3 g), triethylamine (1.5 g), N,N-dimethylformamide (20 ml) and diethyl phosphorocyanidate (0.6 ml), an amidation as that described in Example 6 is carried out. The product is purified by silica gel column chromatography (hexane:acetone=1:1), and converted to the hydrochloride in a mixture of ethyl acetate and ethyl ether to yield 1-(3,4-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.55 g) as colorless crystals, m.p. 225°-229° C. (decomp.).

reactant | 3,4-dimethoxy6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 0.6 g | COC1=C(C2=C(C=C(CCC2)C(=O)O)C=C1)OC | C14H16O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.3 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | 0.6 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(3,4-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.55 g | Cl.COC1=C(C2=C(C=C(CCC2)C(=O)N2CCN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C=C1)OC | InChI=1S/C28H36N2O6.ClH/c1-32-23-10-9-20-17-21(7-6-8-22(20)26(23)35-4)28(31)30-13-11-29(12-14-30)18-19-15-24(33-2)27(36-5)25(16-19)34-3;/h9-10,15-17H,6-8,11-14,18H2,1-5H3;1H
